US05114960
A solution of 0.59 g of ethyl 3-(4-chlorophenyl)-3a,4,5,6,7,7a-hexahydro-7a -pyrrolidino-1,2-benzisoxazole-6-carboxylate (mixture of two diastereoisomers) in 25 ml of 2N hydrochloric acid was heated under reflux for 4 hours. After 1 hour, 0.332 g of a crystalline acid separated out. Crystallization from ethyl acetate/toluene gave 0.23 g of 3-(4-chlorophenyl)-4,5,6,7-tetrahydro-1,2-benzisoxazole-6-carboxylic acid of melting point 227°-228° C.

reactant | ethyl 3-(4-chlorophenyl)-3a,4,5,6,7,7a-hexahydro-7a -pyrrolidino-1,2-benzisoxazole-6-carboxylate | 0.59 g | ClC1=CC=C(C=C1)C1=NOC2(C1CCC(C2)C(=O)OCC)N2CCCC2 | C20H25ClN2O3
solvent | hydrochloric acid | 2N, 25 ml | Cl | ClH
product | 3-(4-chlorophenyl)-4,5,6,7-tetrahydro-1,2-benzisoxazole-6-carboxylic acid | 0.23 g | ClC1=CC=C(C=C1)C1=NOC2=C1CCC(C2)C(=O)O | C14H12ClNO3
